US06806265B2
b) 4-(Methoxymethoxy)-3-methylbenzaldehyde oxime
Et3N (1.68 mL, 12.0 mmol) and hydroxylamine hydrochloride (320 mg, 4.64 mmol) were added to a solution of 4-(methoxymethoxy)-3-methylbenzaldehyde (620 mg, 3.44 mmol) in 1,4-dioxane (12 mL). The reaction mixture was sonicated for 10 min and stirred at 25° C. for 3 d. The reaction mixture was diluted with EtOAc and successively washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 3:1) to provide the title compound (580 mg, 86% yield) as a clear gum.

reactant | Et3N | 12.0 mmol, 1.68 mL | CCN(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 4.64 mmol, 320 mg | Cl.NO
reactant | 4-(methoxymethoxy)-3-methylbenzaldehyde | 3.44 mmol, 620 mg | COCOC1=C(C=C(C=O)C=C1)C | C10H12O3
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(Methoxymethoxy)-3-methylbenzaldehyde oxime | 580 mg, 86% yield | COCOC1=C(C=C(C=NO)C=C1)C | C10H13NO3
